* C:\home\ece2001\reports\report6\circuit1.asc
* Generated by LTspice 24.1.5 for Windows.
V1 N001 0 AC 1.35
C1 N002 N001 22n
R1 N002 0 2k
.ac dec 1000 1 10Meg
.backanno
.end
